US06573274B1
To a suspension of 2,6-dibromo-3-nitropyridine (5.00 g) in ethanol (10 ml) was added a solution (6.8 M, 15 ml) of ammonium/ethanol at room temperature, and the mixture was stirred at room temperature for 19 hr in a sealed container. Water (25 ml) was added to the reaction mixture, and the precipitate was collected by filtration and washed with ethanol. This was suspended in ethanol (55 ml), heated, and allowed to cool. The precipitate was collected by filtration to give 2-amino-6-bromo-3-nitropyridine as a yellow powder (3.19 g).

reactant | 2,6-dibromo-3-nitropyridine | 5.00 g | BrC1=NC(=CC=C1[N+](=O)[O-])Br | C5H2Br2N2O2
reactant | ammonium ethanol | 6.8 M, 15 ml | [NH4+].C(C)O
reactant | Water | 25 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-amino-6-bromo-3-nitropyridine | 3.19 g | NC1=NC(=CC=C1[N+](=O)[O-])Br | C5H4BrN3O2
